US05840764
A solution of 2-amino-3-methylphenol (3.6 g, 29.2 mmol) and diethyl squarate (5 g, 29.4 mmol) in dry ethanol (80 mL) was heated to reflux for two days, then allowed to stand at room temperature for 48 hours. The reaction mixture was concentrated under reduced pressure and the resulting residue was suspended in ethyl acetate (50 mL). Hexane (50 mL) was added to produce a slurry, which was filtered, and rinsed with three portions of hexane:ethyl acetate (1:1). The resulting solid was suspended in dichloromethane (200 mL) and methanol (20 mL), stirred at room temperature for 30 minutes, and filtered. The precipitate was suspended in hot dichloromethane, filtered hot, and dried to give 3-ethoxy-4-(2-hydroxy-6-methylphenylamino)-cyclobut-3-ene-1,2-dione, 1.56 g (6.3 mmol, 22%).

reactant | 2-amino-3-methylphenol | 29.2 mmol, 3.6 g | NC1=C(C=CC=C1C)O | C7H9NO
reactant | diethyl squarate | 29.4 mmol, 5 g | CCOC1=C(C(=O)C1=O)OCC | C8H10O4
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 3-ethoxy-4-(2-hydroxy-6-methylphenylamino)-cyclobut-3-ene-1,2-dione | C(C)OC=1C(C(C1NC1=C(C=CC=C1C)O)=O)=O | C13H13NO4
